US08357523B2
A. Para-Nitrophenyl Glucopyranoside (pNPG) Assay
A colorimetric pNPG (p-nitrophenyl-(β-D-glucopyranoside)-based assay was used for measuring β-glucosidase activity. In a total volume of 100 μL, 20 μL clear media supernatant containing β-glucosidase enzyme was added to 4 mM pNPG (Sigma-Aldrich, Inc. St. Louis, Mo.) solution in 50 mM sodium phosphate buffer at pH6.5. The reactions were incubated at pH 6.5, 45° C. for 1 hour. The reaction mixture was quenched with 100 μL of 1M sodium carbonate pH 11 solution. The absorbance of the solution was measured at 405 nm to determine the conversion of pNPG to p-nitrophenol. The release of p-nitrophenol (ε=17,700 M−1 cm−1) was measured at 405 nm to calculate β-glucosidase activity. Detectable β-glucosidase activity was observed under high throughput screening conditions (pH 7, 50° C.).

reactant | pNPG | C1=CC(=CC=C1[N+](=O)[O-])O[C@H]2[C@@H]([C@H]([C@@H]([C@H](O2)C(=O)O)O)O)O | C12H13NO9
reactant | pNPG | 4 mM | C1=CC(=CC=C1[N+](=O)[O-])O[C@H]2[C@@H]([C@H]([C@@H]([C@H](O2)C(=O)O)O)O)O | C12H13NO9
solvent | sodium phosphate | 50 mM | P(=O)([O-])([O-])[O-].[Na+].[Na+].[Na+]
product | Para-Nitrophenyl Glucopyranoside | O(C1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)C1=CC=C(C=C1)[N+](=O)[O-] | C12H15NO8
